US05457204
B28) 4-(3-[4-Vinylphenoxy]-2-hydroxypropyloxy)-1-octyloxy-2,2,6,6-tetramethylpiperidine
4-Vinylphenol is reacted with 4-(2,3-epoxypropoxy)-1-octyloxy-2,2,6,6-tetramethylpiperidine (=epoxide A3)analogously to Example B6) to form the title product.

reactant | 4-Vinylphenol | C(=C)C1=CC=C(C=C1)O | C8H8O
reactant | 4-(2,3-epoxypropoxy)-1-octyloxy-2,2,6,6-tetramethylpiperidine | O1C(COC2CC(N(C(C2)(C)C)OCCCCCCCC)(C)C)C1 | C20H39NO3
product | 4-(3-[4-Vinylphenoxy]-2-hydroxypropyloxy)-1-octyloxy-2,2,6,6-tetramethylpiperidine | C(=C)C1=CC=C(OCC(COC2CC(N(C(C2)(C)C)OCCCCCCCC)(C)C)O)C=C1 | C28H47NO4
